Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
Aleve / caffeine / alcohol / povidone-iodine / hexachlorophene / 
Omnipaque / Optiray 160
 
Attending: ___.
 
Chief Complaint:
Basilar tip aneurysm
 
Major Surgical or Invasive Procedure:
___: Stent assisted coiling of basilar tip aneurysm
 
History of Present Illness:
___ presents today for elective stent assisted coiling of 
basilar tip aneurysm identified on evaluation of atypical facial 
pain.
 
Past Medical History:
1.   Hypothyroidism
2.   GERD
3.   PCOS
4.   Tonsillectomy
5.   Nose reconstruction
6.   Hysteroscopy with polyp removal 
7.   GB removal 
8.   Neck twitch 

 
Social History:
___
Family History:
Her family history is unremarkable for brain aneurysms.
 
Physical Exam:
ON DISCHARGE
============
Exam:
Opens eyes: [x]spontaneous [ ]to voice [ ]to noxious
Orientation: [x]Person [x]Place [x]Time
Follows commands: [ ]Simple [x]Complex [ ]None
Pupils:  Right:                5   reactive  Left: 5 reactive
EOM: [x]Full [ ]Restricted
Face Symmetric: [x]Yes [ ]NoTongue Midline: [x]Yes [ ]No
Pronator Drift [ ]Yes [x]No     Speech Fluent: [x]Yes [ ]No
Comprehension intact [x]Yes [ ]No

Motor:
TrapDeltoidBicepTricepGrip

IPQuadHamATEHLGast

Angio Groin Site: [x]Soft, no hematoma  [x]Palpable pulses
 
Pertinent Results:
Please see OMR for pertinent imaging & labs
 
Brief Hospital Course:
#Basilar tip aneurysm
On ___, Ms. ___ was admitted for elective pipeline 
embolization of basilar tip aneurysm.  Her operative course was 
uncomplicated; please see procedure note for full details.  
Postoperatively, she was monitored in ___ where she remained 
neurologically and hemodynamically stable. On POD#1, she was 
tolerating regular diet, ambulating independently and voiding 
without difficulty.  She was discharged home in stable 
condition.
 
Medications on Admission:
CLOPIDOGREL - clopidogrel 75 mg tablet. 1 tablet(s) by mouth 
once
a day
DESOGESTREL-ETHINYL ESTRADIOL [APRI] - Apri 0.15 mg-0.03 mg
tablet. 1 tablet(s) by mouth at bedtime
FLUTICASONE - fluticasone 50 mcg/actuation nasal
spray,suspension. INSTILL 2 SPRAYS IN EACH NOSTRIL DAILY AS
NEEDED
LEVOTHYROXINE - levothyroxine 175 mcg tablet. 1 tablet(s) by
mouth once a day
LORAZEPAM [ATIVAN] - Ativan 0.5 mg tablet. as below tablet(s) by
mouth prior to MRI Take 1 tablet 30 minutes prior to MRI. Can
take additional ___ tablets if needed
PREDNISONE - prednisone 20 mg tablet. 2 tablet(s) by mouth once 
a
day
PREDNISONE - prednisone 50 mg tablet. 1 tablet(s) by mouth 
Please
take Prednisone 50 mg 13 hrs, 7 hrs and 1 hr before contrast
injection as needed for Per instructions
 
Medications - OTC
ACETAMINOPHEN - acetaminophen 500 mg tablet. 2 tablet(s) by 
mouth
every 6 hours as needed for pain Do not exceed 4000mg in 24 
hours
AL HYD-MG TR-ALG AC-SOD BICARB [___] - Gaviscon 80 mg-14.2
mg chewable tablet. as directed tablet(s) by mouth  as needed - 
(Prescribed by Other Provider)
ASPIRIN, BUFFERED [BUFFERED ASPIRIN] - Buffered Aspirin 325 mg
tablet. 1 tablet(s) by mouth once a day
FEXOFENADINE [ALLEGRA ALLERGY] - Dosage uncertain -  (Prescribed
by Other Provider)
OMEPRAZOLE - Dosage uncertain -  (OTC)
RANITIDINE HCL [ACID CONTROL (RANITIDINE)] - Acid Control
(ranitidine) 150 mg tablet. 1 tablet(s) by mouth twice a day
RANITIDINE HCL [ZANTAC 75] - Zantac 75 mg tablet. 1 tablet(s) by
mouth  as needed -  (Prescribed by Other Provider)
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild  
2.  Docusate Sodium 100 mg PO BID  
3.  Aspirin (Buffered) 325 mg PO DAILY 
RX *aspirin, buffered [Buffered Aspirin] 325 mg 1 tablet(s) by 
mouth daily Disp #*30 Tablet Refills:*2 
4.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*2 
5.  Fexofenadine 60 mg PO DAILY:PRN allergies  
6.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  
7.  Levothyroxine Sodium 175 mcg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Basilar tip aneurysm
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Activity
• You may gradually return to your normal activities, but we 
recommend you take it easy for the next ___ hours to avoid 
bleeding from your groin.
• Heavy lifting, running, climbing, or other strenuous exercise 
should be avoided for ten (10) days. This is to prevent bleeding 
from your groin.
• You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
• Do not go swimming or submerge yourself in water for five (5) 
days after your procedure.
• You make take a shower.

Medications
• Resume your normal medications and begin new medications as 
directed.
• You have been instructed by your doctor to take one ___ a 
day and Plavix. Do not take any other products that have aspirin 
in them. If you are unsure of what products contain Aspirin, as 
your pharmacist or call our office.
• You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
• If you take Metformin (Glucophage) you may start it again 
three (3) days after your procedure.

Care of the Puncture Site
• You will have a small bandage over the site.
• Remove the bandage in 24 hours by soaking it with water and 
gently peeling it off.
• Keep the site clean with soap and water and dry it carefully.
• You may use a band-aid if you wish.

What You ___ Experience:
• Mild tenderness and bruising at the puncture site (groin).
• Soreness in your arms from the intravenous lines.
• Mild to moderate headaches that last several days to a few 
weeks.
• Fatigue is very normal
• Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

When to Call Your Doctor at ___ for:
• Severe pain, swelling, redness or drainage from the puncture 
site. 
• Fever greater than 101.5 degrees Fahrenheit
• Constipation
• Blood in your stool or urine
• Nausea and/or vomiting
• Extreme sleepiness and not being able to stay awake
• Severe headaches not relieved by pain relievers
• Seizures
• Any new problems with your vision or ability to speak
• Weakness or changes in sensation in your face, arms, or leg

 
Followup Instructions:
___